US06939885B2
Synthesis of (2-Amino-5-chloro-phenyl)-(1-methyl-1H-imidazol-2-yl)-methanone
To a solution of nBuLi (0.0730 mol) in hexane was added N-methyl imidazole (0.0608 mol) drop wise at −40° C. over 30 min under a nitrogen atmosphere. The resulting yellow solution was stirred for a further 3 hr at rt, and then refluxed for 1 h. 2-amino-5-chlorobenzoic acid (1.74 g, 0.01014 mole) in dry ether (60 ml) was then added to the reaction mixture. The reaction mixture was stirred overnight at rt. To the reaction mixture was added saturated NH4Cl solution and the resulting mixture extracted with ethyl acetate (2×150 ml). The combined organic layers were dried over Na2SO4. After removal of solvent, the residue was purified by the flash chromatography using ethyl acetate/hexane (1:4) as eluent. Crystallization of the product from Et2O/hexane mixture gave 300 mg (13.7%) of product as yellow solid.

reactant | nBuLi | 0.0730 mol | [Li]CCCC
reactant | N-methyl imidazole | 0.0608 mol | CN1C=NC=C1 | C4H6N2
reactant | 2-amino-5-chlorobenzoic acid | 0.01014 mole, 1.74 g | NC1=C(C(=O)O)C=C(C=C1)Cl | C7H6ClNO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | hexane | CCCCCC | C6H14
solvent | ether | 60 ml | CCOCC | C4H10O
product | (2-Amino-5-chloro-phenyl)-(1-methyl-1H-imidazol-2-yl)-methanone | 300 mg, 13.7% | NC1=C(C=C(C=C1)Cl)C(=O)C=1N(C=CN1)C | C11H10ClN3O
